US08017789B2
350 g of 2-hydroxy-4-(hydroxymethyl)benzoic acid methyl ester and 160 g of hydroxylamine hydrochloride were added to 700 mL of methanol. Under heating reflux, 1.11 kg of 28% sodium methoxide/methanol solution was added dropwise, and this was stirred for 3 hours. To this, 2.1 L of water was added and 850 mL of solvent was distilled off under atmospheric pressure. Then, 196 mL of hydrochloric acid was added at 40-50° C. The result was stirred for 30 minutes at the same temperature, and 116 mL of hydrochloric acid was added dropwise. After filtering solids, 291 g of N,2-dihydroxy-4-(hydroxymethyl)benzamide was obtained in the form of a pale yellowish-white solid.

reactant | 2-hydroxy-4-(hydroxymethyl)benzoic acid methyl ester | 350 g | COC(C1=C(C=C(C=C1)CO)O)=O | C9H10O4
reactant | hydroxylamine hydrochloride | 160 g | Cl.NO
reactant | methanol | 700 mL | CO | CH4O
reactant | sodium methoxide methanol | 1.11 kg | C[O-].[Na+].CO
solvent | water | 2.1 L | O | H2O
product | N,2-dihydroxy-4-(hydroxymethyl)benzamide | 291 g | ONC(C1=C(C=C(C=C1)CO)O)=O | C8H9NO4
